US08193199B2
2-((S)-1-(8-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione
A mixture of (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione (22.7 g, 61 mmol), Pd(PPh3)4 (3.53 g, 0.05 eq) and 2-(tributylstannyl)pyridine (33.8 g, 80%, 1.2 eq) in dioxane (840 mL) was heated to 100° C. under N2. After over night, LCSM showed around 50% starting material left. The reaction mixture was heated to 110° C. for additional 2 days. LCMS showed less than 10% starting material left. The reaction was heated to 120° C. for 5 h before cool to rt. Removal of solvent followed with column chromatography on silica gel (EtOAc/hexane, 0/1 to 1/3) gave an off white foam 14.2 g and the impure portions were combined and purified in the similar manner to give a white foam. 1H NMR (400 MHz, CDCl3) δ ppm 8.69 (s, 1H), 8.66 (d, J=4.0 Hz, 1H), 7.94 (d, J=4.0 Hz, 1H), 7.85 (t, J=8.0 Hz, 1H), 7.75 (t, J=8.0 Hz, 1H), 7.70-7.65 (m, 4H), 7.50 (t, J=8.0 Hz, 1H), 7.33-7.29 (m, 1H), 6.58 (q, J=8.0 Hz, 1H), 2.02 (d, J=8.0 Hz, 3H). Mass Spectrum (ESI) m/e=414 (M+1).

reactant | (S)-2-(1-(2,8-dichloroquinolin-3-yl)ethyl)isoindoline-1,3-dione | 61 mmol, 22.7 g | ClC1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)Cl | C19H12Cl2N2O2
reactant | 2-(tributylstannyl)pyridine | 33.8 g, 1.2 eq | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | dioxane | 840 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 3.53 g, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-((S)-1-(8-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | 14.2 g | ClC=1C=CC=C2C=C(C(=NC12)C1=NC=CC=C1)[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C24H16ClN3O2
